US06900216B2
Saturated aqueous sodium hydrogencarbonate solution (100 ml) was added over 10 minutes to a stirred suspension of 3-(benzo[b]thiophen-5-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (2.6 g) in dichloromethane (100 ml), the mixture was stirred at ambient temperature for 45 minutes, then the organic layer was separated, washed with water (2×75 ml) and saturated aqueous sodium chloride solution (75 ml), dried (MgSO4) and the solvent was removed in vacuo to give 3-(benzo[b]thiophen-5-yl)-5,6-dihydroimidazo[2,1-b]thiazole (1.9 g) as an orange solid which was used without further purification.

reactant | sodium hydrogencarbonate | 100 ml | C(O)([O-])=O.[Na+]
reactant | 3-(benzo[b]thiophen-5-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 2.6 g | Br.S1C2=C(C=C1)C=C(C=C2)C=2N1C(SC2)=NCC1
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-(benzo[b]thiophen-5-yl)-5,6-dihydroimidazo[2,1-b]thiazole | 1.9 g | S1C2=C(C=C1)C=C(C=C2)C=2N1C(SC2)=NCC1 | C13H10N2S2
